US07960552B2
A solution of methyl 6-[4-({[3-(3,5-dichloro-4-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate (98 mg, 0.18 mmol) in THF (1.8 mL) was placed in a microwave reaction tube. Methanol (0.9 mL) was added followed by 1.0 N sodium hydroxide (0.27 mL, 0.27 mmol) before the tube was sealed and heated at 100° C. for 600 seconds. The solution was neutralized with 1 N HCl. The resulting mixture was partitioned between brine and ethyl acetate. The organic layer was separated and concentrated to yield 6-[4-({[3-(3,5-dichloro-4-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid as a yellow powder (0.08 g, 80% as 0.25 ethyl acetate). 1H NMR (400 MHz, DMSO-d6): δ 13.37 (br s, approximately 1H), 8.81 (s, approximately 2H), 8.53 (d, J=9 Hz, 1H), 8.27 (s, 1H), 8.17-8.08 (m, 3H), 7.73 (d, J=9 Hz, 2H), 6.89 (d, J=9 Hz, 2H), 4.97 (s, 2H), 3.49 (septet, J=7 Hz, 1H), 1.34 (d, J=7 Hz, 6H). HRMS C28H21N3O4Cl2 m/z 534.0982 (M+H)+Cal; 534.0981 (M+H)+Obs.

reactant | methyl 6-[4-({[3-(3,5-dichloro-4-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylate | 0.18 mmol, 98 mg | ClC=1C=NC=C(C1C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)OC)C(C)C)Cl | C29H23Cl2N3O4
reactant | Methanol | 0.9 mL | CO | CH4O
reactant | sodium hydroxide | 0.27 mmol, 1.0 N, 0.27 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | THF | 1.8 mL | C1CCOC1 | C4H8O
product | 6-[4-({[3-(3,5-dichloro-4-pyridinyl)-5-(1-methylethyl)-4-isoxazolyl]methyl}oxy)phenyl]-2-quinolinecarboxylic acid | ClC=1C=NC=C(C1C1=NOC(=C1COC1=CC=C(C=C1)C=1C=C2C=CC(=NC2=CC1)C(=O)O)C(C)C)Cl | C28H21Cl2N3O4
